US20010027196A1
To a stirred solution of 1.12 g (3.37 mmol) 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine in 30 ml dioxane under argon at room temperature were added 1.25 ml (3.70 mmol) tributyl(I-ethoxyvinyl)tin, 236 mg (0.34 mmol) bis(triphenylphosphine) palladium(II) chloride and 2.19 g (6.74 mmol) cesium carbonate. The reaction mixture was heated at reflux for 16 h, then cooled to room temperature, 1 g of kieselgel added, and the mixture concentrated in vacuo. Flash chromatography (1/2 ethyl acetate/hexane) afforded 730 mg (78%) 5-(1-ethoxy-vinyl)-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine as an orange crystalline solid. ES-MS m/e (%): 278 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine | 3.37 mmol, 1.12 g | O1C(=CC=C1)C1=NC(=NC(=C1I)SC)N | C9H8IN3OS
reactant | tributyl(I-ethoxyvinyl)tin | 3.70 mmol, 1.25 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | cesium carbonate | 6.74 mmol, 2.19 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.34 mmol, 236 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(1-ethoxy-vinyl)-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | 730 mg, 78% | C(C)OC(=C)C=1C(=NC(=NC1SC)N)C=1OC=CC1 | C13H15N3O2S
